US03966816
N,N-di-n-propyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline
A heavy walled glass reaction tube of approximately 50 ml. capacity was charged with 7.0 grams (0.023 mole) of 2,4-dichloro-3,5-dinitrobenzotrifluoride, 4.64 grams (0.0458 mole) of di-n-propylamine and 40 ml. of absolute ethanol. The tube was sealed and heated in an oil bath at 94°-99°C. for 98 hours. The cooled reaction mixture was then evaporated to dryness to give an oily residue which was extracted with boiling diethyl ether. The insoluble di-n-propylamine hydrochloride was removed by filtration and washed with additional ether. The combined ether filtrates were evaporated to give an oily orange residue which was dissolved in 100 ml. of absolute ethanol and decolorized with activated charcoal. The ethanol and volatiles were removed by evaporation under reduced pressure to give the product (6.77 grams) as a viscous reddish oil.

reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | 0.023 mole, 7.0 grams | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
reactant | di-n-propylamine | 0.0458 mole, 4.64 grams | C(CC)NCCC | C6H15N
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | N,N-di-n-propyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline | 6.77 grams | C(CC)N(C1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])CCC | C13H15ClF3N3O4
